US04001339
Into a 2 liter round-bottomed flask equipped with a cooling bath, stirrer and thermometer was placed 70 g. of p-ethylphenol and 400 ml dimethoxy ethane. The resulting solution was stirred and 30 g. of potassium hydroxide in 200 ml ethanol was added within 5 minutes. The temperature was maintained below 20° C during this addition and then 110 g. of 1-bromo-3,7-dimethyl-6-octene was added dropwise over 15 minutes. The reaction was stirred for two hours longer at 80° C and then allowed to rise to room temperature. After 3 hours the reaction was poured into a mixture of 500 g. of ice and 1 liter of hexane. The phases were separated and the aqueous layer was reextracted with two 0.5 l-portions hexane. All organic phases were combined and washed successively with 1.0 liter of water, two 250 ml portions of 2N sodium hydroxide and 1.0 liter of water. The organic layer was then dried over sodium sulfate, filtered, and concentrated in vacuo with water aspirator. The dark solution was chromatographed on 1 kg silica gel in hexane-ethylacetate (9:1 parts by volume). The fractions yielding p-ethyphenyl-3,7-dimethyl-6-octenyl ether were concentrated in a rotary evaporator at 40° C bath temperature using a water pump for the vacuum. The residue was distilled through a small Widmer column. The fraction of b.p. 118°-120° C 0.05 mmHg was p-ethylphenyl-3,7-dimethyl-6-octenyl ether.

reactant | p-ethylphenol | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | dimethoxy ethane | 400 ml | C(OC)COC | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-bromo-3,7-dimethyl-6-octene | BrCCC(CCC=C(C)C)C | C10H19Br
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | hexane | 1 liter | CCCCCC | C6H14
product | p-ethyphenyl-3,7-dimethyl-6-octenyl ether | C(C)C1=CC=C(C=C1)C(CC(CCC=C(C)C)C)OC(CC(CCC=C(C)C)C)C1=CC=C(C=C1)CC | C36H54O
